US03959322
13β-Ethyl-17β-acetylgon-4-en-3-one
Add 13β-ethyl-3-methoxy-17α-acetyl-17β-acetoxy-gona-1,3,5(10)-triene (0.24 g.) in dioxan (5 cc.) to a stirred solution of lithium (0.15 g.) in liquid ammonia (100 cc.). After 30 minutes and methanol (8 cc.) followed by lithium (0.5 g.) in small pieces. Add water, extract with ether and work up to a gum (0.218 g.). Reflux this product with 4N hydrochloric acid (5 cc.) and methanol (8 cc.) for 15 minutes. Add water, extract with ether, work up and dissolve the resulting gum in acetone (30 cc.) containing anhydrous magnesium sulphate (0.5 g.) and add 8N-chromic acid dropwise with swirling until the solution assumes a permanent yellowish-orange color. Add excess isopropanol and evaporate the solution almost to dryness. Add water, extract with ether, wash, dry and evaporate the organic solution, filter the product through alumina with benzene-ether and recrystallize the product from ethyl acetate to obtain the title product (0.072 g.), m.p. 138°-142°; infrared absorption peaks at 5.9, 6 μ.

reactant | 13β-ethyl-3-methoxy-17α-acetyl-17β-acetoxy-gona-1,3,5(10)-triene | 0.24 g | C(C)[C@]12[C@](CC[C@H]2[C@H]2[C@H](CC1)C=1C=CC(=CC1CC2)OC)(OC(C)=O)C(C)=O | C24H32O4
reactant | lithium | 0.15 g | [Li] | Li
reactant | ammonia | 100 cc | N | H3N
reactant | methanol | 8 cc | CO | CH4O
reactant | lithium | 0.5 g | [Li] | Li
solvent | dioxan | 5 cc | O1CCOCC1 | C4H8O2
product | 13β-Ethyl-17β-acetylgon-4-en-3-one | 0.072 g | C(C)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)[C@H]1CCC(C=C1CC2)=O)C(C)=O | C21H30O2
